US07576215B2
PHENYL[4-[3-(1H-PYRROL-1-YL)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE
A mixture of [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone (0.04 g, 0.1 mmol) and 2,5-dimethoxytetrahydrofuran (0.08 g, 0.6 mmol) in 5 mL of acetic acid was heated at 80 for 1 h. Removal of solvent under reduced pressure gave a crude product that was purified by silica gel chromatography eluting with ethyl acetate/hexanes (5% to 30%) to give 30 mg (67%) of the title compound as an off-white solid. MS (ESI) m/z 443; HRMS: calcd for C27H17F3N2O, 442.1293; found (ESI, [M+H]+), 443.1373.

reactant | [4-(3-aminophenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | 0.1 mmol, 0.04 g | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 2,5-dimethoxytetrahydrofuran | 0.6 mmol, 0.08 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | PHENYL[4-[3-(1H-PYRROL-1-YL)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE | 30 mg, 67% | C1(=CC=CC=C1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)N1C=CC=C1)C(F)(F)F | C27H17F3N2O
